US08076491B2
4-(Chlorosulfonyl)benzoic acid (5.0 g, 22.7 mmol) was added in three portions over a 10 minute period to a stirring solution of furfuryl amine (6.6 g, 68 mmol) in acetone (200 mL) cooled to 0° C. via an ice water bath. After addition of the sulfonyl chloride was complete the ice bath was removed and the solution was stirred for 1 hour at ambient temperature. The mixture was concentrated and subjected to silica gel chromatography (90% ethyl acetate, 8% hexanes and 2% acetic acid) to afford 4.4 of 4-(N-(furan-2-ylmethyl)sulfamoyl)benzoic acid (4.4 g, 68%) as a white solid. 1H NMR (DMSO-d6, 400 MHz): 4.04 (d, 2H, J=6 Hz), 6.13 (d, 1H, J=3.2 Hz), 6.25 (m, 1H), 7.43 (m, 1H), 7.83 (d, 2H, J=8.4 Hz), 8.05 (d, 2H, J=8.4 Hz), 8.36 (t, 1H, J=6 Hz), 13.4 (bs, 1H).

reactant | 4-(Chlorosulfonyl)benzoic acid | 22.7 mmol, 5.0 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | furfuryl amine | 68 mmol, 6.6 g | C(C1=CC=CO1)N | C5H7NO
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 4-(N-(furan-2-ylmethyl)sulfamoyl)benzoic acid | 4.4 g, 68% | O1C(=CC=C1)CNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C12H11NO5S
